US07932281B2
Synthesis of 6-cyano-imidazo[1,2-a]pyridine-2-carboxylic acid ethyl ester
In ethanol (30 ml), 2-amino-5-cyanopyridine (2.45 g) was dissolved. The solution was added with 3-bromo-2-oxo-propionic acid ethyl ester (3.90 g) and the whole was refluxed under heating for 7 hours. The concentrated residue was dissolved in a minimum amount of a 10% hydrogen chloride/methanol solution and the solution was adjusted to pH 8 with a saturated aqueous sodium hydrogen carbonate solution. The precipitate was collected by filtration, thereby obtaining the subject compound (3.81 g) as a pale-yellow solid.

reactant | 2-amino-5-cyanopyridine | 2.45 g | NC1=NC=C(C=C1)C#N | C6H5N3
reactant | 3-bromo-2-oxo-propionic acid ethyl ester | 3.90 g | C(C)OC(C(CBr)=O)=O | C5H7BrO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | hydrogen chloride methanol | Cl.CO
product | 6-cyano-imidazo[1,2-a]pyridine-2-carboxylic acid ethyl ester | 3.81 g | C(C)OC(=O)C=1N=C2N(C=C(C=C2)C#N)C1 | C11H9N3O2
